US07312359B2
2-{[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl-amino}-N-methyl-acetamide
{[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-amino}-acetic acid ethyl ester (0.42 g) was dissolved in 20 m of 1.1 molar methylamin in methanol. The solution was stirred at room temperature for 24 hours and then concentrated to an oil under reduced pressure. The oil was dissolved in ethanol and 1N HCl in diethyl ether was added to precipitate 2-{[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-amino}-N-methyl-acetamide as a hydrochloride salt. Yield 0.045 gms, M+H=391.

reactant | {[6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl]-amino}-acetic acid ethyl ester | 0.42 g | C(C)OC(CNCC1CCCC2=CC(=CC=C12)S(=O)(=O)C1=CC(=CC=C1)F)=O | C21H24FNO4S
reactant | methylamin | 1.1 molar | CN | CH5N
solvent | methanol | CO | CH4O
product | [6-(3-Fluoro-benzenesulfonyl)-1,2,3,4-tetrahydro-naphthalen-1-ylmethyl-amino}-N-methyl-acetamide | FC=1C=C(C=CC1)S(=O)(=O)C=1C=C2CCCC(C2=CC1)CNCC(=O)NC | C20H23FN2O3S
